US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-(1,2-dihydro-1-methyl-2-oxo-3-pyridinyl)-1-piperazinecarboxamide
As described for example 78, 3-amino-1-methyl-2-pyridone, 4-nitrophenyl chloroformate, diisopropyl(ethyl)amine, and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product. LC-MS: 413 (M++1). 1H NMR (CDCl3) δ 8.15 (dd, 1H), 8.02 (s, 1H), 7.74 (d, 1H), 7.65 (s, 1H), 7.20 (dd, 1H), 6.95 (dd, 1H), 6.25 (m, 1H), 6.16 (s, 1H), 5.00 (s, 2H), 3.80 (m, 4H), 3.62 (s, 3H), 3.20 (m, 4H).

reactant | 3-amino-1-methyl-2-pyridone | NC=1C(N(C=CC1)C)=O | C6H8N2O
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-(1,2-dihydro-1-methyl-2-oxo-3-pyridinyl)-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC=1C(N(C=CC1)C)=O)Cl | C20H21ClN6O2
